US08859541B2
N-methyl-N-[6-[2-(methylamino)propanoylamino]-2-(2-phenylethynyl)pyridin-3-yl]oxane-4-carboxamide
A mixture of tert-butyl-N-methyl-N-[1-[[5-[methyl(oxane-4-carbonyl)amino]-6-(2-phenylethynyl)pyridin-2-yl]amino]-1-oxopropan-2-yl]carbamate F5b (5 mg) and DCM:TFA (9:1, 1 ml) is stirred at RT for 100 minutes. The mixture is diluted with DCM and extracted with a saturated aqueous solution of NaHCO3. The combined organic layers are dried over MgSO4 and concentrated in vacuo. The product is purified by RP HPLC. Yield: 7 mg. HPLC-MS: M+H=421; tR=1.33 min (*Method—1).

reactant | tert-butyl-N-methyl-N-[1-[[5-[methyl(oxane-4-carbonyl)amino]-6-(2-phenylethynyl)pyridin-2-yl]amino]-1-oxopropan-2-yl]carbamate | C(C)(C)(C)OC(N(C(C(=O)NC1=NC(=C(C=C1)N(C(=O)C1CCOCC1)C)C#CC1=CC=CC=C1)C)C)=O | C29H36N4O5
reactant | DCM TFA | 1 ml | C(Cl)Cl.C(=O)(C(F)(F)F)O
solvent | DCM | C(Cl)Cl | CH2Cl2
product | N-methyl-N-[6-[2-(methylamino)propanoylamino]-2-(2-phenylethynyl)pyridin-3-yl]oxane-4-carboxamide | CN(C(=O)C1CCOCC1)C=1C(=NC(=CC1)NC(C(C)NC)=O)C#CC1=CC=CC=C1 | C24H28N4O3
